US04346088
4-(4-Chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2-methylphenyl-imino)-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1(b), from 4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2-methylphenyl)-thiazolidin-4-ol hydrobromide, by boiling in glacial acetic acid for 2 hours. The reaction mixture is concentrated, water is added to the residue and the crystals are filtered off. Melting point 218°-220° C.

reactant | 4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2-methylphenyl)-thiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)C1=C(C=CC=C1)C)C)O)S(N(CCC)CCC)(=O)=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-(2-methylphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C=CC=C1)C)C)S(N(CCC)CCC)(=O)=O | InChI=1S/C23H28ClN3O2S2.BrH/c1-5-13-27(14-6-2)31(28,29)22-15-18(11-12-19(22)24)21-16-30-23(26(21)4)25-20-10-8-7-9-17(20)3;/h7-12,15-16H,5-6,13-14H2,1-4H3;1H
